US04988384
The acid chloride starting material of Example 1 (12.81 g=0.0345 mole) was dissolved in 100 ml CH2Cl2. To this solution was added 4.68 g (0.0373 mol) of glycine methyl ester hydrochloride. This mixture was cooled in an ice bath before adding 10 ml of ethyldiisopropylamine (EDPA)(0.0574 mole) by pipet. The ice bath was removed, and the reaction stirred overnight at room temperature. 19F NMR showed the reaction was incomplete. An additional 3 ml of EDPA (0.0172 mol) was added. After 1/2 hour a gas chromatographic assay showed complete reaction. It was washed with dilute HCl and extracted with CH2Cl2. The CH2Cl2 layer was dried with MgSO4, filtered and concentrated to 14.2 g orange oily solid. Two grams were chromatotroned (20% EtOAc/cyclohexane) and then recrystallized to give 1.2 g of 3-pyridinecarboxylic acid, 6-(difluoromethyl)-5-[[(2-methoxy-2-oxoethyl)amino]carbonyl]-4-(2-methylpropyl)-2-(trifluoromethyl)-, methyl ester as a white solid. m.p. 126°-129° C.

reactant | glycine methyl ester hydrochloride | 0.0373 mol, 4.68 g | Cl.COC(CN)=O
reactant | ethyldiisopropylamine | 0.0574 mole, 10 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | EDPA | 0.0172 mol, 3 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-pyridinecarboxylic acid | 1.2 g | N1=CC(=CC=C1)C(=O)O | C6H5NO2
